US09145415B2
To a solution of tert-butyl ((S)-1-(((1S,3R)-3-((2-chloro-4-methoxypyrimidin-5-yl)ethynyl)cyclohexyl)amino)-1-oxopropan-2-yl)(methyl)carbamate (Q4, 32 mg) in N-methylpyrrolidone (0.5 mL), 4-aminobenzonitrile (42 mg) and (1S)-(+)-10-camphorsulfonic acid (81 mg) were added at room temperature, and the mixture was stirred at 60° C. for 7 hours and 30 minutes. The reaction mixture was cooled to room temperature, and then saturated aqueous sodium hydrogencarbonate and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed successively with saturated aqueous sodium hydrogencarbonate, water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 88 to 25% hexane in ethyl acetate) to obtain tert-butyl ((S)-1-(((1S,3R)-3-((2-((4-cyanophenyl)amino)-4-methoxypyrimidin-5-yl)ethynyl)cyclohexyl)amino)-1-oxopropan-2-yl)(methyl)carbamate (Q5, 11 mg).

reactant | tert-butyl ((S)-1-(((1S,3R)-3-((2-chloro-4-methoxypyrimidin-5-yl)ethynyl)cyclohexyl)amino)-1-oxopropan-2-yl)(methyl)carbamate | 32 mg | ClC1=NC=C(C(=N1)OC)C#C[C@H]1C[C@H](CCC1)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O | C22H31ClN4O4
reactant | 4-aminobenzonitrile | 42 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | (1S)-(+)-10-camphorsulfonic acid | 81 mg | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N-methylpyrrolidone | 0.5 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl ((S)-1-(((1S,3R)-3-((2-((4-cyanophenyl)amino)-4-methoxypyrimidin-5-yl)ethynyl)cyclohexyl)amino)-1-oxopropan-2-yl)(methyl)carbamate | C(#N)C1=CC=C(C=C1)NC1=NC=C(C(=N1)OC)C#C[C@H]1C[C@H](CCC1)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O | C29H36N6O4
